US04551460
A solution of 26.6 g of 3-pyridinehexanoic acid in 200 ml of dry tetrahydrofuran was cooled in an ice bath as 488 ml of 1 molar borane in tetrahydrofuran was added slowly. The reaction mixture was gradually brought to reflux temperature and was heated overnight. The excess reagent was quenched by the careful addition of 100 ml of methanol and the mixture was concentrated. The residue was diluted with excess 6N hydrochloric acid, allowed to stand overnight, made basic with 50% sodium hydroxide, and extracted with dichloromethane. The combined organic layers were dried over potassium carbonate, and evaporated to an oil which was distilled to give 22.6 g (92%) of 6-(3-pyridyl)hexanol, bp 180°-200° C./0.2 mm.

reactant | 3-pyridinehexanoic acid | 26.6 g | N1=CC(=CC=C1)CCCCCC(=O)O | C11H15NO2
reactant | borane | 1 molar, 488 ml | B | BH3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 6-(3-pyridyl)hexanol | 22.6 g, 92% | N1=CC(=CC=C1)CCCCCCO | C11H17NO
